US05569653
(A) 1-Benzoyl-6-fluoro-3-(1-phenoxycarbonyl-4-piperidinyl)-1H-indazole
To a solution of 1-benzoyl-6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole (2.0 g, 5.93 mmol) in dichloromethane (100 ml) was added phenyl chloroformate (3.9 ml, 29.65 mmol) at room temperature. The reaction mixture was stirred at room temperature for 24 hours, refluxed for an additional 0.5 hours and subsequently concentrated. The remaining residue was dissolved into dichloromethane and washed with 10% HCl (aq.). The organic phase was dried (MgSO4), filtered, and concentrated to give an oil which was purified via flash column chromatography (silica gel, 20% DCM/EtOAc). Concentration of the product-containing fractions gave an oil which solidified on standing. The white solid was washed with EtOAc, leaving 0.47 g of the desired product, m.p. 137°-139° C.

reactant | 1-benzoyl-6-fluoro-3-(1-methyl-4-piperidinyl)-1H-indazole | 5.93 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=C(C=C12)F)C1CCN(CC1)C | C20H20FN3O
reactant | phenyl chloroformate | 29.65 mmol, 3.9 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Benzoyl-6-fluoro-3-(1-phenoxycarbonyl-4-piperidinyl)-1H-indazole | 0.47 g | C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=C(C=C12)F)C1CCN(CC1)C(=O)OC1=CC=CC=C1 | C26H22FN3O3
